US08084485B2
To a solution of (1-(3-methoxypropyl)-1H-indazol-6-yl)methanol (660 mg, 3 mmol) in dry CH2Cl2 (15 mL) at 0° C., Ph3P (943 mg, 3.6 mmol) and NBS (640 mg, 3.6 mmol) were added in portions. After stirring for 12 h at rt, the mixture was evaporated and the residue was purified by flash chromatography on silica gel to give 6-(bromomethyl)-1-(3-methoxypropyl)-1H-indazole (420 mg, 50%). 1H NMR (400 MHz, CDCl3): 2.18 (m, 2H), 3.26 (m, 2H), 3.31 (s, 3H), 4.49 (m, 2H), 4.65 (s, 2H), 7.18 (m, 1H), 7.48 (s,1H), 7.79 (m,1H), 7.99 (m,1H)

reactant | (1-(3-methoxypropyl)-1H-indazol-6-yl)methanol | 3 mmol, 660 mg | COCCCN1N=CC2=CC=C(C=C12)CO | C12H16N2O2
reactant | Ph3P | 3.6 mmol, 943 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | NBS | 3.6 mmol, 640 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 6-(bromomethyl)-1-(3-methoxypropyl)-1H-indazole | 420 mg, 50% | BrCC1=CC=C2C=NN(C2=C1)CCCOC | C12H15BrN2O
